US07351858B2
d) Methyl 2-[2-(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethoxy}-3-methoxyphenyl)ethoxy]benzoate
2-(4-{2-[(2,4-Difluorobenzyl)(heptyl)amino]-2-oxoethoxy}-3-methoxyphenyl)ethyl methanesulfonate (138 mg, 0.262 mmol) was dissolved in acetonitrile (10 ml). 2-Hydroxybenzoic acid methyl ester (40 mg, 0.262 mmol) was added and then potassium carbonate anhydrous (54 mg, 0.392 mmol) was added. The mixture was heated to reflux overnight and then evaporated to dryness. Water (10 ml) and ethyl acetate (10 ml) were added and the two phases were separated. The organic phase was washed with water and brine, dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using DCM, MeOH/DCM (1:99) as eluant gave 78 mg the desired product, yield 45% (two steps).

reactant | 2-(4-{2-[(2,4-Difluorobenzyl)(heptyl)amino]-2-oxoethoxy}-3-methoxyphenyl)ethyl methanesulfonate | 0.262 mmol, 138 mg | CS(=O)(=O)OCCC1=CC(=C(C=C1)OCC(=O)N(CCCCCCC)CC1=C(C=C(C=C1)F)F)OC | C26H35F2NO6S
reactant | 2-Hydroxybenzoic acid methyl ester | 0.262 mmol, 40 mg | COC(C1=C(C=CC=C1)O)=O | C8H8O3
reactant | potassium carbonate | 0.392 mmol, 54 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methyl 2-[2-(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethoxy}-3-methoxyphenyl)ethoxy]benzoate | 78 mg, yield 45% | FC1=C(CN(C(COC2=C(C=C(C=C2)CCOC2=C(C(=O)OC)C=CC=C2)OC)=O)CCCCCCC)C=CC(=C1)F | C33H39F2NO6
